US08563735B2
3-nitro-4-(1-(2,2,2-trifluoroethyl)piperidin-4-ylamino)benzenesulfonamide
4-chloro-3-nitrobenzenesulfonamide (1.300 g), 1-(2,2,2-trifluoroethyl)piperidin-4-amine hydrochloride (1.201 g), and triethylamine (2.30 mL) were added to 1,4-dioxane (50 mL) and water (5 mL) and heated at 90° C. for 16 hours. The solution was concentrated on vacuum and purified by flash column chromatography on silica gel with ethyl acetate increasing to 5% methanol in ethyl acetate.

reactant | 4-chloro-3-nitrobenzenesulfonamide | 1.300 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | 1-(2,2,2-trifluoroethyl)piperidin-4-amine hydrochloride | 1.201 g | Cl.FC(CN1CCC(CC1)N)(F)F
reactant | triethylamine | 2.30 mL | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 3-nitro-4-(1-(2,2,2-trifluoroethyl)piperidin-4-ylamino)benzenesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1NC1CCN(CC1)CC(F)(F)F)S(=O)(=O)N | C13H17F3N4O4S
